US07241783B2
1-[(2-hydroxynaphth-1-yl)methylidene]-4-(4-sulfophenyl)-3-thiosemicarbazide
The procedure described in example 4 was followed here, using 4-(4-sulfophenyl)-3-thiosemicarbazide, sodium salt in place of 4-(naphth-1-yl)thiosemicarbazide and 2-hydroxy-1-naphthaldehyde in place of 2,4,6-trihydroxybenzaldehyde to give the title compound (23%) as a solid. MS (ES−) m/e 400 [M−H]−.

reactant | 4-(4-sulfophenyl)-3-thiosemicarbazide | S(=O)(=O)(O)C1=CC=C(C=C1)NC(NN)=S | C7H9N3O3S2
reactant | sodium | [Na] | Na
reactant | 2-hydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
product | 1-[(2-hydroxynaphth-1-yl)methylidene]-4-(4-sulfophenyl)-3-thiosemicarbazide | 23% | OC1=C(C2=CC=CC=C2C=C1)C=NNC(=S)NC1=CC=C(C=C1)S(=O)(=O)O | C18H15N3O4S2
